US06964974B2
A solution of 733 mg (2.15 mmol) of 4-(5-Chloro-pent-1-ynyl)-piperidine-1-carboxylic acid 4-chloro-phenyl ester in 20 ml butan-2-one was treated with 650 mg of NaI (4.3 mmol) and heated at 80° C. for 48 h. Evaporation gave crude 4-(5-Iodo-pent-1-ynyl)-piperidine-1-carboxylic acid 4-chloro-phenyl ester, which was used directly for the next step, MS: 431 (M, 1Cl).

reactant | 4-(5-Chloro-pent-1-ynyl)-piperidine-1-carboxylic acid 4-chloro-phenyl ester | 2.15 mmol, 733 mg | ClC1=CC=C(C=C1)OC(=O)N1CCC(CC1)C#CCCCCl | C17H19Cl2NO2
reactant | NaI | 4.3 mmol, 650 mg | [Na+].[I-]
solvent | butan-2-one | 20 ml | CC(CC)=O | C4H8O
product | 4-(5-Iodo-pent-1-ynyl)-piperidine-1-carboxylic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(=O)N1CCC(CC1)C#CCCCI | C17H19ClINO2
